US09359336B2
The reaction mixture of 3-iodo-5-(2H-tetrazol-5-yl)pyridine (273 mg, 1 mmol, 1 eq), (3-bromopropoxy)-tert-butyldimethylsilane (0.31 mL, 1.3 eq), potassium carbonate (207 mg, 1.5 eq) in anhydrous DMF (4 mL) under nitrogen atmosphere was stirred and heated at 80° C. for 5 hours. The mixture was then diluted with ethyl acetate, washed sequentially with saturated aqueous sodium bicarbonate, aqueous ammonium chloride, brine, and dried with anhydrous sodium sulfate. The upper liquor was decanted, concentrated under reduced pressure, and the resulting brown oily residue was subject to a gradient column chromatography (EtOAc-Hex 1:50 to 1:4) giving 3-(2-(3-((tert-butyldimethylsilyl)oxy)propyl)-2H-tetrazol-5-yl)-5-iodopyridine as a soft white solid in the amount of 395 mg.

reactant | 3-iodo-5-(2H-tetrazol-5-yl)pyridine | 1 mmol, 273 mg, 1 eq | IC=1C=NC=C(C1)C=1N=NNN1 | C6H4IN5
reactant | (3-bromopropoxy)-tert-butyldimethylsilane | 0.31 mL, 1.3 eq | BrCCCO[Si](C)(C)C(C)(C)C | C9H21BrOSi
reactant | potassium carbonate | 207 mg, 1.5 eq | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-(2-(3-((tert-butyldimethylsilyl)oxy)propyl)-2H-tetrazol-5-yl)-5-iodopyridine | [Si](C)(C)(C(C)(C)C)OCCCN1N=C(N=N1)C=1C=NC=C(C1)I | C15H24IN5OSi
